US06525042B1
1,4-Dibenzyl-2-methoxycarbonylmethylpiperazine
In toluene (250 ml), N,N′-dibenzylethylenediamine (12 ml) and triethylamine (12 ml) were dissolved, followed by the dropwise addition of methyl 3-bromocrotonate (7.0 ml) under ice cooling. The resulting mixture was stirred at room temperature for 24 hours. After the addition of triethylamine (2.0 ml), the resulting mixture was stirred at room temperature for 71 hours. The insoluble matter was filtered off and the filtrate was distilled under reduced pressure. The residue was added with 10% hydrochloric acid (300 ml) and crystals so precipitated were removed by filtration. Ethyl acetate was added to the filtrate. Potassium carbonate was added to the water layer so separated to make it alkaline. Ethyl acetate was added to the resulting mixture. The organic layer so separated was washed with saturated saline and dried over anhydrous potassium carbonate. The solvent was then distilled off under reduced pressure. The residue was purified by chromatography on a silica gel column (hexane:ethyl acetate=4:1), whereby the title compound (1.07 g, 62%) was obtained.

reactant | methyl 3-bromocrotonate | 7.0 ml | Br\C(=C/C(=O)OC)\C | C5H7BrO2
reactant | N,N′-dibenzylethylenediamine | 12 ml | C(C1=CC=CC=C1)NCCNCC1=CC=CC=C1 | C16H20N2
solvent | toluene | 250 ml | C1(=CC=CC=C1)C | C7H8
solvent | triethylamine | 12 ml | C(C)N(CC)CC | C6H15N
solvent | triethylamine | 2.0 ml | C(C)N(CC)CC | C6H15N
product | 1,4-Dibenzyl-2-methoxycarbonylmethylpiperazine | C(C1=CC=CC=C1)N1C(CN(CC1)CC1=CC=CC=C1)CC(=O)OC | C21H26N2O2
